US08207168B2
A mixture of 4-(4-methoxy-2-methyl-phenyl)-4-oxo-butyric acid (2 g, 9 mmol), acetic acid (30 mL) and 48% aqueous HBr (10 mL) was heated at 130° C. for 5.5 h. The reaction was cooled to rt and concentrated at reduced pressure and azeotrope twice with benzene to give a crude residue. The crude residue was dissolved in ethanol (25 mL) and added amberlyst then heated at 90° C. for 18 h. The reaction was filtered over celite and evaporated ethanol at reduced pressure then quenched with water and extracted twice with methylene chloride to obtain 4-(4-hydroxy-2-methyl-phenyl)-4-oxo-butyric acid ethyl ester (1.6 g, 75%). The crude material was used for the next reaction without purification.

reactant | 4-(4-methoxy-2-methyl-phenyl)-4-oxo-butyric acid | 9 mmol, 2 g | COC1=CC(=C(C=C1)C(CCC(=O)O)=O)C | C12H14O4
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | HBr | 10 mL | Br | BrH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(4-hydroxy-2-methyl-phenyl)-4-oxo-butyric acid ethyl ester | 1.6 g, 75% | C(C)OC(CCC(=O)C1=C(C=C(C=C1)O)C)=O | C13H16O4
